US04305937
A suspension of 2-(2-formylaminothiazol-4-yl)-glyoxylic acid (3.0 g) in methanol (60 ml) and water (60 ml) was adjusted to pH 8 with 1 N aqueous solution of sodium hydroxide under stirring. To the solution was added 2,2,2-trifluoroethoxyamine hydrochloride (2.24 g) and then adjusted to pH 2.5 to 3 with 1 N aqueous solution of sodium hydroxide. After the solution was stirred at ambient temperature for 1.5 hours, methanol was removed from the resultant solution under reduced pressure. The remaining aqueous solution was adjusted to pH 7 with 1 N aqueous solution of sodium hydroxide and then washed with ethyl acetate. To the aqueous solution was added ethyl acetate and then adjusted to pH 1.5 with 10% hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated under reduced pressure to give 2-(2,2,2-trifluoroethoxyimino)-2-(2-formylaminothiazol-4-yl)acetic acid (syn isomer) (2.4 g), mp 162° to 163° C. (dec.).

reactant | 2-(2-formylaminothiazol-4-yl)-glyoxylic acid | 3.0 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2,2-trifluoroethoxyamine hydrochloride | 2.24 g | Cl.FC(CON)(F)F
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 2-(2,2,2-trifluoroethoxyimino)-2-(2-formylaminothiazol-4-yl)acetic acid | 2.4 g | FC(CON=C(C(=O)O)C=1N=C(SC1)NC=O)(F)F | C8H6F3N3O4S
